US09108994B2
A reactor with a capacity of 40 mL, equipped with a magnetic stirrer was filled, under argon atmosphere, with 0.0085 g (0.015 mmol) of [{Ir(μ-Cl)(CO)2}2], and then with 8 mL of anhydrous and deoxidized toluene and 0.7 g (5.4 mmol) of NEt(i-Pr)2. The whole mixture was stirred until the starting iridium(I) complex was dissolved, and then 0.306 g (3mmol) of phenylacetylene and 0.96 g (4.8 mmol) of ISiMe3 were added to the resulting mixture. The reaction was carried out at a temperature of 80° C. until complete conversion of phenylacetylene. After the reaction was completed, the solvent was evaporated at a reduced pressure along with any residual unreacted substrates in order to remove the catalyst from the reaction mixture and then the residue was transferred onto a chromatographic column packed with silica gel and product was isolated using hexane as eluent. The solvent was initially evaporated from the eluate, and the residual product was distilled by means of the “trap-to-trap” technique at a reduced pressure to obtain 0.47 g of phenylethynyltrirnethylsilane, with a yield of 90%.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | NEt(i-Pr)2 | 5.4 mmol, 0.7 g | N(CC)(C(C)C)C(C)C | C8H19N
reactant | phenylacetylene | 3mmol, 0.306 g | C1(=CC=CC=C1)C#C | C8H6
reactant | ISiMe3 | 4.8 mmol, 0.96 g | I[Si](C)(C)C | C3H9ISi
solvent | hexane | CCCCCC | C6H14
product | phenylethynyltrirnethylsilane | 0.47 g, yield of 90% | C1(=CC=CC=C1)C#C[Si](C)(C)C | C11H14Si
